US04711888
4,6-Dimethyl-5-methoxy-2-phenylpentylaminopyrimidine (R1 =H; R2 =2-phenpentyl; R3 =R4 =R5 =CH3)
4,6-Dimethyl-5-hydroxy-2-phenpentylaminopyrimidine (0.5 g, 1.8 mmol) prepared by the method of example 1 was dissovled in dry THF (20 ml) under nitrogen and treated with sodium hydride (0.07 g, 1.8 mmol, 60% oil dispersion). The reaction mixture was stirred at 0° C. for 2 hours. Dimethylsulfate (0.11 ml, 1.8 mmol) was added with a syringe and the reaction was stirred for an additional hour. After quenching with saturated NH4Cl (aqueous, 20 ml), the reaction mixture was extracted with ethylacetate (75 ml). The extracts were washed with 50 ml water and 50 ml brine, dried over MgSO4 and concentrated. Chromatography on silica gel with ethylacetate/hexane (1:1) eluent yielded 0.15 g of the title compound as a yellow oil, m.p.: 31° to 33° C.

reactant | 4,6-Dimethyl-5-hydroxy-2-phenpentylaminopyrimidine | 1.8 mmol, 0.5 g | CC1=NC(=NC(=C1O)C)NCCCCCC1=CC=CC=C1 | C17H23N3O
reactant | sodium hydride | 1.8 mmol, 0.07 g | [H-].[Na+]
reactant | Dimethylsulfate | 1.8 mmol, 0.11 ml | COS(=O)(=O)OC | C2H6O4S
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 4,6-Dimethyl-5-methoxy-2-phenylpentylaminopyrimidine | 0.15 g | CC1=NC(=NC(=C1OC)C)NCC(CCC)C1=CC=CC=C1 | C18H25N3O
